US03975532
Hexahydro-1H-Furo(3,4-c)Pyrrole Hydrochloride
Hexahydro-1H-Furo(3,4-c)pyrrole (11.3 grams, 0.1 mole) was dissolved in 200 ml diethyl ether and anhydrous HCl gas passed through the solution. The salts were filtered and washed with ether.

reactant | Hexahydro-1H-Furo(3,4-c)pyrrole | 0.1 mole, 11.3 grams | C1OCC2C1CNC2 | C6H11NO
reactant | HCl | Cl | ClH
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | Hexahydro-1H-Furo(3,4-c)Pyrrole Hydrochloride | Cl.C1OCC2C1CNC2 | InChI=1S/C6H11NO.ClH/c1-5-3-8-4-6(5)2-7-1;/h5-7H,1-4H2;1H
